US04517195
1-[(Carbobenzyloxyamino)acetamido]-2-benzoylpyrrole
N,N'-Dicyclohexylcarbodiimide (2.32 g, 11.2 mmol) was added in one portion to a stirred solution of 1-amino-2-benzoylpyrrole (2.1 g, 11.2 mmol) and carbobenzyloxyglycine (2.36 g, 11.2 mmol) in 70 ml of dichloromethane. The reaction mixture was stirred rapidly for 2.5 hours at room temperature and thereafter filtered to remove the precipitated dicyclohexylurea. Evaporation of the filtrate left 4.7 g of a semi-solid which was flash chromatographed (silica gel, 1:1 ethyl acetate-hexane) to give 3.75 g (88%) of powder, m.p. 96°-98°.

reactant | N,N'-Dicyclohexylcarbodiimide | 11.2 mmol, 2.32 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-amino-2-benzoylpyrrole | 11.2 mmol, 2.1 g | NN1C(=CC=C1)C(C1=CC=CC=C1)=O | C11H10N2O
reactant | carbobenzyloxyglycine | 11.2 mmol, 2.36 g | C(=O)(OCC1=CC=CC=C1)NCC(=O)O | C10H11NO4
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | 1-[(Carbobenzyloxyamino)acetamido]-2-benzoylpyrrole | 3.75 g, 88% | C(=O)(OCC1=CC=CC=C1)NCC(=O)NN1C(=CC=C1)C(C1=CC=CC=C1)=O | C21H19N3O4
